US04427687
2-Oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine oxime is reacted with dimethylcarbamoyl chloride as described in Example 2 to yield 2-oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine O-(dimethylcarbamoyl) oxime, m.p. 64°-65° C.

reactant | 2-Oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine oxime | N(O)=C1SCCN=C1C | C5H8N2OS
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 2-oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine O-(dimethylcarbamoyl) oxime | CN(C(=O)ON=C1SCCN=C1C)C | C8H13N3O2S
